US04470976
4-Methoxyphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
A mixture comprising 2.6 g of 4-methoxyphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside in 25 ml of cold methanol was combined with a cold mixture of 2N triethylamine in methanol:water (6:2). This mixture was refrigerated overnight, then evaporated in vacuo to a solid which was triturated with ether, giving 1.3 g of the desired intermediate, UV 225-245 nm.

reactant | 4-methoxyphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 2.6 g | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)OC)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C33H42O18S
reactant | triethylamine | 2N | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol water | CO.O
product | 4-Methoxyphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 1.3 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)OC)O[C@@H]1CO)O)O | C19H28O11S
